US08895547B2
3-Amino-3-(2,5-difluorophenyl)propionic acid
A solution of 2,5-difluorobenzaldehyde (5 g), malonic acid (3.66 g) and ammonium acetate (5.42 g) in ethanol (50 ml) was heated under reflux for six hours. The mixture was cooled and left to stand overnight. The crystals formed were filtered off and washed with ethanol (5 ml).

reactant | 2,5-difluorobenzaldehyde | 5 g | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | malonic acid | 3.66 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 5.42 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Amino-3-(2,5-difluorophenyl)propionic acid | NC(CC(=O)O)C1=C(C=CC(=C1)F)F | C9H9F2NO2
